US06906072B1
Example 187 1-[4-cyano-4-(2-thienyl)-5-methylhexyl]-4-[2-(5-chloro-3-pyridyloxy)ethyl]piperidine
The title compound was synthesized in accordance with Example 75 from 4-cyano-4-(2-thienyl)-5-methylhexyl iodide and 4-[2-(5-chloro-3-pyridyloxy)ethyl]piperidine. The physico-chemical data of the compound was as below.

reactant | 4-cyano-4-(2-thienyl)-5-methylhexyl iodide | C(#N)C(CCCI)(C(C)C)C=1SC=CC1 | C12H16INS
reactant | 4-[2-(5-chloro-3-pyridyloxy)ethyl]piperidine | ClC=1C=C(C=NC1)OCCC1CCNCC1 | C12H17ClN2O
product | 1-[4-cyano-4-(2-thienyl)-5-methylhexyl]-4-[2-(5-chloro-3-pyridyloxy)ethyl]piperidine | C(#N)C(CCCN1CCC(CC1)CCOC=1C=NC=C(C1)Cl)(C(C)C)C=1SC=CC1 | C24H32ClN3OS
